US05977105
b) (±)-1-(4-Benzoylphenyl)-5-(3-pyridyl)-3-pentanol
Prepared according to the method as described in Example 55g) from (±)-1-(4 -benzoylphenyl)-5-(3-pyridyl)pent-1-yn-3-ol (0.6 g) in ethanol (10 ml), hydrogenated at 1.5 atmospheres for 18 hours using palladium on carbon (10%, 0.05 g). The residue was purified by column chromatography over silica with dichloromethane:ethanol (95:5) to give the title compound as an off white gum (0.387 g).

reactant | (±)-1-(4 -benzoylphenyl)-5-(3-pyridyl)pent-1-yn-3-ol | 0.6 g | C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)C#CC(CCC=1C=NC=CC1)O | C23H19NO2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.05 g | [Pd] | Pd
product | (±)-1-(4-Benzoylphenyl)-5-(3-pyridyl)-3-pentanol | C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)CCC(CCC=1C=NC=CC1)O | C23H23NO2
